US06500503B2
Preparation of 3,4-Difluorophenethylbromide
17.59 g (111 mmol) of 2-(3,4-difluorophenyl)ethanol, 16 ml (137 mmol) of hydrogen bromide, 6.8 ml (234 mmol) of conc. sulfuric acid were added in the order, and the mixture was heated under reflux for 3 hrs. The reaction mixture was poured onto an ice-bath, an organic layer and an aqueous layer were separated, the aqueous layer was extracted with ether, the extract combined with the organic layer was washed with a saturated aqueous solution of sodium hydrogen carbonate, and dried over anhydrous magnesium sulfate. The solvent was distilled off, the solution condensed and purified by vacuum distillation to obtain 21.96 g (bp 68-70° C./2-4 Torr.) of oily product. The oily product was purified by column chromatography (elution solvent: hexane:ethyl acetate=3:1), the eluate was further purified by vacuum distillation to obtain 19.79 g of the title compound (81%, bp 73-75° C./4 Torr.) as oily product.

reactant | 2-(3,4-difluorophenyl)ethanol | 111 mmol, 17.59 g | FC=1C=C(C=CC1F)CCO | C8H8F2O
reactant | hydrogen bromide | 137 mmol, 16 ml | Br | BrH
reactant | sulfuric acid | 234 mmol, 6.8 ml | S(O)(O)(=O)=O | H2O4S
product | 3,4-Difluorophenethylbromide | 19.79 g, 81% | FC=1C=C(CCBr)C=CC1F | C8H7BrF2
